US06875882B2
A. 2,4-Dibenzyloxy Benzoic Acid
A solution of 2,4-dihydroxybenzoic acid (5 g), anhydrous K2CO3 (40 g) and benzyl bromide (16 mL) in acetone (100 mL) was refluxed for 4 hours. After filtration of solid, the filtrate was concentrated. The residue was stirred at room temperature with KOH (6 g), and methanol (20 mL) for 4 hours, and neutralized with dilute HCl (pH 2). The solid thus formed was filtered and recrystallized from a methanol-chloroform mixture (3:1) to get 3.5 g of the product. Concentration of mother liquor gave an additional 1 g of the product.

reactant | 2,4-dihydroxybenzoic acid | 5 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | K2CO3 | 40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 16 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2,4-Dibenzyloxy Benzoic Acid | 3.5 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O4
